US06800645B1
Methyl 2-(4-cyanobenzyl)-7-methoxy-3H-benzimidazole-4-carboxylate
A solution of methyl 2-(4-bromobenzyl)-7-methoxy-3H-benzimidazole-4-carboxylate [1.4 g, Reference Example 3(1)] in dry dimethylformamide was treated with tetrakis(triphenylphosphine) palladium (0) (0.266 g) and zinc cyanide (0.275 g). The reaction mixture was heated at 100° C. for 12 hours then cooled to room temperature. The mixture was diluted with ethyl acetate and then washed with ammonium hydroxide (2N), then with water and then with brine. The organic solution was dried over magnesium sulphate then evaporated. The residue was subjected to flash chromatography on silica to give the title compound (0.88 g). NMR (CDCl3): δ 3.85(s, 3H), 4.00(s, 3H), 4.40(s, 2H), 6.70(d, 1H), 7.40(d, 2H), 7.65(d, 2H), 7.85(1H).

reactant | methyl 2-(4-bromobenzyl)-7-methoxy-3H-benzimidazole-4-carboxylate | 1.4 g | BrC1=CC=C(CC=2NC3=C(N2)C(=CC=C3C(=O)OC)OC)C=C1 | C17H15BrN2O3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium (0) | 0.266 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | zinc cyanide | 0.275 g | [C-]#N.[Zn+2].[C-]#N
product | Methyl 2-(4-cyanobenzyl)-7-methoxy-3H-benzimidazole-4-carboxylate | 0.88 g | C(#N)C1=CC=C(CC=2NC3=C(N2)C(=CC=C3C(=O)OC)OC)C=C1 | C18H15N3O3
